US04038281
c. 5-benzoyl-2,7-dihydro-2,7-dimethyl-4H-pyrazolo[3,4-b]pyridin-4-one
25.3 g. of (4-hydroxy-2-methyl-2H-pyrazolo[3,4-b]pyridin-5-yl)phenylmethanone (0.1 mol.), 15.5 g. of methyl iodide (0.11 mol.) and 21 g. of potassium carbonate (0.15 mol.) are heated in 150 ml. of dimethylformamide with stirring at 80° for 10 hours. After this time, the inorganic precipitate is filtered off and the filtrate evaporated to dryness. The remaining 5-benzoyl-2,7-dihydro-2,7-dimethyl-4H-pyrazolo[3,4-b]pyridin-4-one is recrystallized from butanol, yield 18 g. (67%); m.p. 272°-274°.

reactant | (4-hydroxy-2-methyl-2H-pyrazolo[3,4-b]pyridin-5-yl)phenylmethanone | 0.1 mol | OC=1C=2C(N=CC1C(=O)C1=CC=CC=C1)=NN(C2)C | C14H11N3O2
reactant | methyl iodide | 0.11 mol | CI | CH3I
reactant | potassium carbonate | 0.15 mol | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-benzoyl-2,7-dihydro-2,7-dimethyl-4H-pyrazolo[3,4-b]pyridin-4-one | C(C1=CC=CC=C1)(=O)C=1C(C=2C(N(C1)C)=NN(C2)C)=O | C15H13N3O2
